Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.43838942438
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3](=[O:4])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-2.18421921197
[C:3]=[C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.93037919461
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.72411779262
[H:1][C:2]1[O:3][O:4][C@@:5]1([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2](=[O:3])[C@@:5]([O:4])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.71471664346
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.56417969495
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][O:5]>>[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.27333690776
[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-0.35810307655
[H:6].[O:1][C:2]#[C:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.2942163405
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[H:11].[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12][H:13],3.00665484762
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[O:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.0227907619101
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:3],4.9441878181300005
[C:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.00651110131
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10][H:11],5.02148453793
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4][H:5])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.87587417725
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:10][H:11],1.86441638261
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.887937333119999
[H:1][O:2][C:3][C:5]([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.95748794419
[H:1][O:2][C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],3.74053162645
[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.07522210112
[H:11].[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.44201968154
[C:1].[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8],-5.76161282012
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.13508841964
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([C:4]([H:5])[H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.40302387761
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:5],1.59588011941
[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.95901877244
[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2].[O:3]=[C:4]([O:5][H:6])[C:7]([H:8])[H:9],4.27710071038
